US06034121
A solution of 6-bromo-4-chloro-3-propyl-2H-1-benzopyran-2-one (0.4 g) and N-methylbutylamine (3 ml) in dimethylformamide (2 ml) was heated under reflux for 30 minutes and then allowed to cool overnight. Evaporation followed by column chromatography yielded 6-bromo-4-(butylmethylamino)-3-propyl-2H-1-benzopyran-2-one, as an oil. (compound 18).

reactant | 6-bromo-4-chloro-3-propyl-2H-1-benzopyran-2-one | 0.4 g | BrC=1C=CC2=C(C(=C(C(O2)=O)CCC)Cl)C1 | C12H10BrClO2
reactant | N-methylbutylamine | 3 ml | CNCCCC | C5H13N
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 6-bromo-4-(butylmethylamino)-3-propyl-2H-1-benzopyran-2-one | BrC=1C=CC2=C(C(=C(C(O2)=O)CCC)N(C)CCCC)C1 | C17H22BrNO2
